US07754737B2
To a solution of (R)-tert-butyl 3-((2-azidoethoxy)(3-chloro-2-fluorophenyl)methyl)-piperidine-1-carboxylate (2.6 g, 6.31 mmol) in EtOAc (50 mL) was added wetted Pd/C (0.1 g) and the mixture was stirred overnight under a hydrogen atmosphere maintained by a balloon. The reaction mixture was filtered through a pad of Celite and the solvent was removed to give (R)-tert-butyl 3-((2-aminoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate which was submitted to reverse phase the preparative HPLC to give (R)-tert-butyl 3-((S)-(2-aminoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate (990 mg, 81%) and (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate (792 mg, 65%). MS (E/Z): 387 (M+H+).

reactant | (R)-tert-butyl 3-((2-azidoethoxy)(3-chloro-2-fluorophenyl)methyl)-piperidine-1-carboxylate | 6.31 mmol, 2.6 g | N(=[N+]=[N-])CCOC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F | C19H26ClFN4O3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | (R)-tert-butyl 3-((2-aminoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate | NCCOC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F | C19H28ClFN2O3
